US08003806B2
3-Phenyl-3-{6-[(2,3,5-trichloro-6-hydroxybenzoyl)amino]-1H-benzimidazol-1-yl}propanoic acid
Using a similar procedure to that described in Preparation 21, the title compound (19 mg) was prepared from ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and 3,5,6-trichlorosalicylic acid (HATU was substituted for TBTU), and purified by RP-HPLC. [LCMS (Method A, Mobile Phase I) RT=4.54 min, MH+ 506].

reactant | ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C18H19N3O2
reactant | 3,5,6-trichlorosalicylic acid | ClC1=C(C(C(=O)O)=C(C(=C1)Cl)Cl)O | C7H3Cl3O3
product | 3-Phenyl-3-{6-[(2,3,5-trichloro-6-hydroxybenzoyl)amino]-1H-benzimidazol-1-yl}propanoic acid | 19 mg | C1(=CC=CC=C1)C(CC(=O)O)N1C=NC2=C1C=C(C=C2)NC(C2=C(C(=CC(=C2O)Cl)Cl)Cl)=O | C23H16Cl3N3O4
